US04483799
4-hydroxy butane-2-sulfonic acid-(3-sulfobutyl)-ester ("ester 2")
Sulfoalkylating agent, obtainable by heating 4-hydroxy butane-2-sulfonic acid or 3-methyl-1,3-propane sultone to a temperature in the region of from 80° to 180° C. in the presence of water in an amount of from 1 to 4 moles per mol of 4-hydroxy-butane-2-sulfonic acid or 3-methyl-1,3-propane sultone, and characterized by the following 13C-NMR-shifts (ppm, relative to TMS=0, in the presence of dioxane): 15.4; 31.7; 34.4; 53.6; 60.0 and 68.5.

reactant | 4-hydroxy butane-2-sulfonic acid | OCCC(C)S(=O)(=O)O | C4H10O4S
reactant | water | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-hydroxy butane-2-sulfonic acid-(3-sulfobutyl)-ester | S(=O)(=O)(O)C(CCOS(=O)(=O)C(C)CCO)C | C8H18O7S2
